US04229461
11.4 g of cysteamine hydrochloride and 10.1 g of triethylamine were dissolved in 100 ml of ethanol, to which was added 10.2 g of 2-keto-butyric acid. The mixture was refluxed for 30 minutes, cooled and filtered thereby giving 10.6 g (yield 65.7%) of 2-ethyl-thiazolidine-2-carboxylic acid with a melting point of 235°-238° C. (decomposed).

reactant | cysteamine hydrochloride | 11.4 g | Cl.NCCS
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-keto-butyric acid | 10.2 g | O=C(C(=O)O)CC | C4H6O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-ethyl-thiazolidine-2-carboxylic acid | 10.6 g, yield 65.7% | C(C)C1(SCCN1)C(=O)O | C6H11NO2S
